simulator lang=spice

.include './latch.sp'
.include './memarray.sp'

mmemarray ( bl_1 bl_2 sel1_1 sel1_2 sel1_3 sel2_1 sel2_2 sel2_3 wl_1 wl_2 wl_3 sl_1 sl_2 sl_3 vload_1 vload_2 vload_3 vss vdd ) memarray
mlatch (bl_1 bl_2 out outbar vdd vss vdd vss LE1 LE2 selL1 selL2) latch

vsel1_1 sel1_1 gnd vsource type=pwl wave=[1]
vsel1_2 sel1_2 gnd vsource type=pwl wave=[1]
vsel1_3 sel1_3 gnd vsource type=pwl wave=[1]

vsel2_1 sel2_1 gnd vsource type=pwl wave=[1]
vsel2_2 sel2_2 gnd vsource type=pwl wave=[1]
vsel2_3 sel2_3 gnd vsource type=pwl wave=[1]

vwl_1 wl_1 gnd vsource type=pwl wave=[1]
vwl_2 wl_2 gnd vsource type=pwl wave=[1]
vwl_3 wl_3 gnd vsource type=pwl wave=[1]

vsl_1 sl_1 gnd vsource type=pwl wave=[1]
vsl_2 sl_2 gnd vsource type=pwl wave=[1]
vsl_3 sl_3 gnd vsource type=pwl wave=[1]

vvload_1 vload_1 gnd  vsource type=dc dc=1  
vvload_2 vload_2 gnd  vsource type=dc dc=1
vvload_3 vload_3 gnd  vsource type=dc dc=1

vLE1 LE1 gnd vsource type=pwl wave=[1]
vLE2 LE2 gnd vsource type=pwl wave=[1]

vselL1 selL1 gnd vsource type=pwl wave=[1]
vselL2 selL2 gnd vsource type=pwl wave=[1]